US04673746
To a solution of 1.7 g of 2-chlororesorcinol dimethyl ether and 2.08 g of o-trifluoromethyl benzoyl chloride in 50 ml of 1,2-dichloroethane at 5°-7° C., 1.6 g of ferric chloride is added gradually. The mixture is brought to room temperature and allowed to stand 18 hours. The reaction mixture is refluxed 30 minutes and poured into 5% HCl and ice. The aqueous phase is extracted with additional organic solvent. The combined organic extracts are washed with water, dried over Na2SO4 and evaporated to give 3-chloro-2-hydroxy-4-methoxy-2'-trifluoromethylbenzophenone, mp 101°-102° C.

reactant | 2-chlororesorcinol dimethyl ether | 1.7 g | COC1=C(C(OC)=CC=C1)Cl | C8H9ClO2
reactant | o-trifluoromethyl benzoyl chloride | 2.08 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 3-chloro-2-hydroxy-4-methoxy-2'-trifluoromethylbenzophenone | ClC=1C(=C(C(=O)C2=C(C=CC=C2)C(F)(F)F)C=CC1OC)O | C15H10ClF3O3
